US04599105
Preparation of 2-(5-hydroxy-2-nitrophenoxy)propionic acid
5 Grams (21.8 moles) of 2-(5-fluoro-2-nitrophenoxy)propionic acid was heated for two hours with 5 ml of 25 percent (by weight) aqueous sodium hydroxide and 100 ml of DMSO and allowed to stand overnight. The mixture was diluted with water and extracted with 1,1,1-trichloroethane (organic discarded), then with ether. The aqueous layer was acidified and extracted with ether. The ether solution was stripped to give 2.5 g of solid product which was recrystallized from ethanol/chloroform to give 1.7 g (35 percent) of the desired product. M.P.=190°-195° C. NMR and IR spectra supported the identification.

reactant | 2-(5-fluoro-2-nitrophenoxy)propionic acid | 21.8 moles | FC=1C=CC(=C(OC(C(=O)O)C)C1)[N+](=O)[O-] | C9H8FNO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(5-hydroxy-2-nitrophenoxy)propionic acid | 2.5 g | OC=1C=CC(=C(OC(C(=O)O)C)C1)[N+](=O)[O-] | C9H9NO6
